US03960893
Methyl 5-p-chlorophenylthien-2-ylacetate (1 g.) was dissolved in dry dioxan (10 ml.). Sodium hydride (0.1 g.) was added, the mixture was stirred for 30 minutes, and methyl iodide (0.6 g.) was then added. The mixture was refluxed for 30 minutes, cooled, and further sodium hydride (0.1 g.) and methyl iodide (1.1 ml.) were added. The mixture was refluxed for 2 hours, cooled and evaporated in vacuo to give an oil which was chromatographed on a column of Florisil (column: 9 inches long × 1 inch diameter) which was eluted with a mixture of equal volumes of benzene and petroleum ether (b.p. 60°-80°C.). The first 350 ml. of eluate was evaporated in vacuo to give an oil. This oil, which was mainly methyl α,α-dimethyl-α-(5-p-chlorophenylthien-2-yl)acetate, was hydrolysed by conventional means and gave α,α -dimethyl-α-(5-p-chlorophenylthien-2yl)-acetic acid, m.p. 146°-148°C.

reactant | Methyl 5-p-chlorophenylthien-2-ylacetate | 1 g | ClC1=CC=C(C=C1)C1=CC=C(S1)CC(=O)OC | C13H11ClO2S
reactant | Sodium hydride | 0.1 g | [H-].[Na+]
reactant | methyl iodide | 0.6 g | CI | CH3I
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | methyl iodide | 1.1 ml | CI | CH3I
reactant | methyl α,α-dimethyl-α-(5-p-chlorophenylthien-2-yl)acetate | CC(C(=O)OC)(C=1SC(=CC1)C1=CC=C(C=C1)Cl)C | C15H15ClO2S
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | α,α -dimethyl-α-(5-p-chlorophenylthien-2yl)-acetic acid | CC(C(=O)O)(C=1SC(=CC1)C1=CC=C(C=C1)Cl)C | C14H13ClO2S
